### PR TITLE
[Merged by Bors] - refactor(Data/Matrix/Basic): use a defeq for scalar that matches its docstring

### PR DESCRIPTION
**Pull request by eric-wieser**
This changes the defeq from `scalar a = a • 1` to `scalar a = diagonal fun _ => a`, which has the nice bonus of making `algebraMap_eq_diagonal` true by `rfl`.

As a result, we need a new `smul_one_eq_diagonal` lemma to rewrite `diagonal fun _ => a` back into `a • 1`, along with some variants for convenience.

In the long term we could generalize this to non-unital rings, now that it needs no `1`.

---

- [x] depends on: #8088
- [x] depends on: #8116

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Basic.lean [hunk 1]
```diff
@@ -1251,68 +1264,53 @@ theorem mul_mul_left [Fintype n] (M : Matrix m n α) (N : Matrix n o α) (a : α
...
   rfl
-#align matrix.coe_scalar Matrix.coe_scalar
+#align matrix.coe_scalar Matrix.scalar_applyₓ
 
-theorem scalar_apply_eq (a : α) (i : n) : scalar n a i i = a := by
-  -- Porting note: replaced `Pi.smul_apply` with the new `Matrix.smul_apply`
-  simp only [coe_scalar, Matrix.smul_apply, one_apply_eq, smul_eq_mul, mul_one]
-#align matrix.scalar_apply_eq Matrix.scalar_apply_eq
+#noalign matrix.scalar_apply_eq
+#noalign matrix.scalar_apply_ne
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/Basic.lean:1280]: I would prefer to keep these two specialized `apply` lemmas (they don't need to be `@[simp]`), it seems to save a bit of work down the line. Also because many of the specializations of `diagonal` also have this `apply_eq` and `apply_ne` variation.

File: Mathlib/Data/Matrix/Basic.lean [hunk 2]
```diff
@@ -1080,6 +1080,11 @@ theorem smul_eq_diagonal_mul [Fintype m] [DecidableEq m] (M : Matrix m n α) (a
   simp
 #align matrix.smul_eq_diagonal_mul Matrix.smul_eq_diagonal_mul
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/Basic.lean:1081]: It seems from the changed `simp` calls that `simp` should really be able to identify `a • M = (diagonal fun _ => a) * M`. But I'm not sure which in which direction we'd want this equality, or maybe even something slightly different than the current statement. Or is this better for a follow-up?

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:1081]: I was hoping to leave this for a follow-up because I didn't want to have to think about it 🙃. I think generally the `smul` version is probably more convenient as the simp normal form, which makes it easier to move `a` around, but harder to associate it.

File: Mathlib/Data/Matrix/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:1280]: > Also because many of the specializations of `diagonal` also have this `apply_eq` and `apply_ne` variation.

What lemmas are you thinking of?

File: Mathlib/Data/Matrix/Basic.lean [hunk 3]
```diff
@@ -1151,6 +1156,14 @@ theorem map_mul [Fintype n] {L : Matrix m n α} {M : Matrix n o α} [NonAssocSem
   simp [mul_apply, map_sum]
 #align matrix.map_mul Matrix.map_mul
 
+theorem smul_one_eq_diagonal [Fintype m] [DecidableEq m] (a : α) :
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:1159]: If we did that we should probably have `smul_one_eq_algebraMap` as a simp lemma too (for all algebras), but I believe that's currently not the case.

File: Mathlib/Data/Matrix/Basic.lean (hunk 1 above)
Comment (Vierkantor) [reply Mathlib/Data/Matrix/Basic.lean:1280]: A quick search for `apply_(of_)?ne` gives the following `@[simp]` lemmas about on/off diagonal entries of matrices: `one_apply_{eq,ne}`, `charmatrix_apply_{eq,ne}`, `stdBasisMatrix.apply_{same,of_ne}`, `stdBasisMatrix.mul_{left,right}_apply_of_ne`, `transvection_mul_apply_of_ne`.

More generally, we have `AffineBasis.coord_apply_{eq,ne}`, `CategoryTheory.Mat.id_apply_of_ne`, `Finset.affineCombinationSingleWeights_apply_of_ne`, `Finset.weightedVSubVSubWeights_apply_of_ne`, `Finset.affineCombinationLineMapWeights_apply_of_ne`, `Finsupp.single_eq_of_ne`.

I haven't counted but these apply lemmas are more commonly marked as `@[simp]` than not.

**Review by Vierkantor — APPROVED** [review]
Only the question about keeping the `apply` lemmas, LGTM otherwise!

File: Mathlib/Data/Matrix/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean:1280]: I'd argue it's better to just force the user to unfold `scalar` (using `scalar_apply`) if they want any lemmas about it; its primary purpose is to exist as a bundled morphism. The alternative feels like a path to duplicating all the `diagonal` API for `scalar`, which seems like a lot of work to save using a dsimp lemma.

Comment (Vierkantor) [reply Mathlib/Data/Matrix/Basic.lean:1280]: Alright! I haven't been entirely convinced but it's not worth holding up this PR on that.

**Comment by Vierkantor** [comment]
bors merge
